US05919969
Ethyl N-(2-chloro-5-n-dodecyloxycarbonylphenyl)-2-phthalimidomalonamate
Diethyl 2-phthalimidomalonate (15.26 g, 50.0 mmol) and n-dodecyl 3-amino-4-chlorobenzoate (16.99 g, 50.0 mmol) were added to toluene (300 ml) and refluxed under Dean and Stark conditions for 5 days, occasionally removing a small amount of distillate and replenishing the solvent as necessary. The reaction was followed by TLC (1:2 ethyl acetate:60-80° C. petroleum ether), the Rf of the product being between that of the two starting materials. The toluene was removed on the rotary evaporator and on standing the viscous oil solidified. Crystallization from 60-80° C. petroleum ether gave a white solid, 13.92 g, 47%

reactant | Diethyl 2-phthalimidomalonate | 50.0 mmol, 15.26 g | C1(C=2C(C(N1C(C(=O)OCC)C(=O)OCC)=O)=CC=CC2)=O | C15H15NO6
reactant | n-dodecyl 3-amino-4-chlorobenzoate | 50.0 mmol, 16.99 g | NC=1C=C(C(=O)OCCCCCCCCCCCC)C=CC1Cl | C19H30ClNO2
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
product | Ethyl N-(2-chloro-5-n-dodecyloxycarbonylphenyl)-2-phthalimidomalonamate | ClC1=C(C=C(C=C1)C(=O)OCCCCCCCCCCCC)NC(C(C(=O)OCC)N1C(C=2C(C1=O)=CC=CC2)=O)=O | C32H39ClN2O7
